US05990133
3-(4-Pyridyl) aniline (D12)
3-Bromoaniline (0.24 ml, 2.2 mmol) and sodium carbonate (0.70 g, 6.6 mmol) were suspended in a mixture of 1,2-dimethoxyethane (16 ml) and water (4 ml). The reaction mixture was then treated with 4-pyridyl boronic acid (0.27 g, 2.2 mmol), and flushed with Argon. Tetrakis (triphenylphosphine)-palladium (0) (0.35 g) was then added, and the mixture was heated to reflux under Argon for 24 hours. The reaction mixture was allowed to cool after which it was partitioned between dichloromethane and water. The aqueous layer was again extracted with dichloromethane. The combined extracts were then dried (Na2SO4) and concentrated in vacuo to afford a pale yellow solid (0.35 g). This was chromatographed on silica gel eluting with ethyl acetate to afford the title compound as a white solid (0.15 g, 41%).

reactant | 3-Bromoaniline | 2.2 mmol, 0.24 ml | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | sodium carbonate | 6.6 mmol, 0.70 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-pyridyl boronic acid | 2.2 mmol, 0.27 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
solvent | 1,2-dimethoxyethane | 16 ml | COCCOC | C4H10O2
solvent | water | 4 ml | O | H2O
product | 3-(4-Pyridyl) aniline | 0.35 g | N1=CC=C(C=C1)C=1C=C(N)C=CC1 | C11H10N2
